US07897600B2
(E)-N′-(6-Chloropyridazin-3-yl)-N,N-dimethylacetimidamide
In a 2 L round bottom flask combine 3-chloro-6-pyridazinamine (43.2 g, 333.5 mmol), toluene (500 mL), and N,N-dimethylacetamide dimethyl acetal (67.8 mL, 1.25 equiv.). Attach a reflux condenser then heat to reflux for 2 h. Let cool to RT. Concentrate in vacuo. Triturate the crude material with hexanes and filter to isolate the title compound (60.4 g, 91%) as a light tan solid. MS=199.0 (M+1).

reactant | 3-chloro-6-pyridazinamine | 333.5 mmol, 43.2 g | ClC=1N=NC(=CC1)N | C4H4ClN3
reactant | N,N-dimethylacetamide dimethyl acetal | 67.8 mL, 1.25 equiv. | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-N′-(6-Chloropyridazin-3-yl)-N,N-dimethylacetimidamide | 60.4 g, 91% | ClC1=CC=C(N=N1)/N=C(\C)/N(C)C | C8H11ClN4
